US06284755B1
Step E: Preparation of 2-(-3-hydroxy-phenyl)-4-methyl-2-propyl-morpholine-3-one
BBr3 (1M in CH2Cl2) (0.341 mL, 0.341 mmol) was added dropwise to a solution of 2-(-3-methoxy-phenyl)-4-methyl-2-propyl-morpholine-3-one, as described above in Step D, (0.06 g, 0.227 mmol) in CH2Cl2 (3 mL) at 0° C. with stirring. The ice bath was removed and stirring was continued for 16 h. The reaction mixture was quenched with H2O, concentrated to dryness, then dissolved in MeOH and purified by RP preparative HPLC on a PrepPak (95/5 to 5/95 H2O/CH3CN w/0.1% TFA, flow=65 mL/min) to give the title compound. FAB MS (M+1) 250.

reactant | BBr3 | 0.341 mmol, 1M, 0.341 mL | B(Br)(Br)Br | BBr3
reactant | 2-(-3-methoxy-phenyl)-4-methyl-2-propyl-morpholine-3-one | COC=1C=C(C=CC1)C1(C(N(CCO1)C)=O)CCC | C15H21NO3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(-3-hydroxy-phenyl)-4-methyl-2-propyl-morpholine-3-one | OC=1C=C(C=CC1)C1(C(N(CCO1)C)=O)CCC | C14H19NO3
